US04904690
2-Cyclopentyl-8-methyl-4-oxo-4H-[1]-benzopyran
1-Cyclopentyl-3-(2-hydroxy-3-methylphenyl)-1,3-propanedione (14 g) was dissolved in acetic acid (70 ml) and conc. sulfuric acid (3 ml) was added to the solution. The mixture was stirred at 100° C. for 1 hour. The reaction mixture was poured into cold water and extracted with ethyl acetate. The extract was washed with water, aqueous saturated sodium bicarbonate and then water and dried (MgSO4). The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate (4:1)) to obtain the title compound (12.7 g) as crystals, yield 97.4%. The crystals were recrystallized from methanol to obtain prisms, m.p. 51°-52° C.

reactant | 1-Cyclopentyl-3-(2-hydroxy-3-methylphenyl)-1,3-propanedione | 14 g | C1(CCCC1)C(CC(=O)C1=C(C(=CC=C1)C)O)=O | C15H18O3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-Cyclopentyl-8-methyl-4-oxo-4H-[1]-benzopyran | 12.7 g, yield 97.4% | C1(CCCC1)C=1OC2=C(C(C1)=O)C=CC=C2C | C15H16O2
